US07504411B2
Methanol (5 ml) solution of ethylenediamine (3.74 g, 62.29 mmol) was added to the ice-cooled solution of 4-methoxyphenylglyoxal (8.30 g, 45.5 mmol) in methanol (100 ml) and tetrahydrofuran (50 ml) and stirred for 10 min. After cooling to 0° C., sodium tetrahydroborate (6.14 g, 162.2 mmol) and additional methanol (50 ml) was added and stirred overnight. After removal of the solvent, aqueous sodium hydroxide was added and was extracted with dichloromethane three times and washed with brine and dried over sodium sulfate. After removal of the solvent, purification of the residue by silica gel column chromatography (eluent; dichloromethane/ethanol/diethylamine=20/2/1) gave 2-(4-methoxypheny)-piperazine (3.96 g, 45%).

reactant | ethylenediamine | 62.29 mmol, 3.74 g | C(CN)N | C2H8N2
reactant | 4-methoxyphenylglyoxal | 45.5 mmol, 8.30 g | COC1=CC=C(C=C1)C(=O)C=O | C9H8O3
reactant | sodium tetrahydroborate | 162.2 mmol, 6.14 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
solvent | Methanol | 5 ml | CO | CH4O
product | 2-(4-methoxypheny)-piperazine | 3.96 g, 45% | COC1=CC=C(C=C1)C1NCCNC1 | C11H16N2O
